US04962115
A mixture of 5.6 parts of 1-(chloromethyl)-4-fluorobenzene, 5.2 parts of N-methyl-3H-imidazo[4,5-c]-pyridine-2-amine, 4.2 parts of sodium carbonate and 90 parts of N,N-dimethylformamide was stirred and heated first for 3 hours at 90°-100° C. and further overnight at 60° C. The reaction mixture was poured onto water and the product was extracted four times with dichloromethane. The combined extracts were dried, filtered and evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (92.5:7.5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was boiled in 2-propanone, yielding 6 parts of 5-[(4-fluorophenyl)methyl]-N-methyl-5H-imidazo-[4,5-c-]pyridin-2-amine; mp. 209.5° C. (intermediate 97).

reactant | 1-(chloromethyl)-4-fluorobenzene | ClCC1=CC=C(C=C1)F | C7H6ClF
reactant | N-methyl-3H-imidazo[4,5-c]-pyridine-2-amine | CNC1=NC2=C(C=NC=C2)N1 | C7H8N4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-[(4-fluorophenyl)methyl]-N-methyl-5H-imidazo-[4,5-c-]pyridin-2-amine | FC1=CC=C(C=C1)CN1C=C2C(C=C1)=NC(=N2)NC | C14H13FN4
